US09399636B2
Step 5: 1-(3-(2-(3,3-difluoropyrrolidin-1-yl)-6-((4-(trifluoromethyl)pyridin-2-yl)amino)pyridin-4-yl)azetidin-1-yl)ethanone
To a solution of 4-(azetidin-3-yl)-6-(3,3-difluoropyrrolidin-1-yl)-N-[4-(trifluoromethyl)-2-pyridyl]pyridin-2-amine (1-d, 180 mg, 0.4507 mmol) and DMAP (5.6 mg, 0.1 equiv., 0.04507 mmol) in dichloromethane (2 mL, 31.0 mmol) and N-ethyldiisopropylamine (0.47 mL, 6.0 equiv., 2.704 mmol) was added acetic anhydride (0.22 mL, 5.0 equiv., 2.253 mmol), and the brown solution was stirred at 25° C. for 2 h. DCM was removed, and the crude was submitted for HPLC purification to yield 9.5 mg (4.8%) off-white powder. 1H NMR (400 MHz, DMSO) δ (delta) 9.99-9.83 (s, 1H), 8.74-8.62 (s, 1H), 8.48-8.40 (d, J=5.1 Hz, 1H), 7.21-7.11 (d, J=5.2 Hz, 1H), 6.66-6.55 (s, 1H), 6.15-5.96 (s, 1H), 4.53-4.39 (t, J=8.6 Hz, 1H), 4.27-4.15 (t, J=9.2 Hz, 1H), 4.14-4.07 (dd, J=8.3, 6.1 Hz, 1H), 3.94-3.78 (m, 3H), 3.77-3.61 (m, 3H), 2.64-2.52 (dt, J=14.1, 7.0 Hz, 2H), 1.85-1.75 (s, 3H). LCMS: m/z 442 (M+H).

reactant | 4-(azetidin-3-yl)-6-(3,3-difluoropyrrolidin-1-yl)-N-[4-(trifluoromethyl)-2-pyridyl]pyridin-2-amine | 0.4507 mmol, 180 mg | N1CC(C1)C1=CC(=NC(=C1)N1CC(CC1)(F)F)NC1=NC=CC(=C1)C(F)(F)F | C18H18F5N5
reactant | dichloromethane | 31.0 mmol, 2 mL | ClCCl | CH2Cl2
reactant | N-ethyldiisopropylamine | 2.704 mmol, 0.47 mL, 6.0 equiv. | C(C)N(C(C)C)C(C)C | C8H19N
reactant | acetic anhydride | 2.253 mmol, 0.22 mL, 5.0 equiv. | C(C)(=O)OC(C)=O | C4H6O3
catalyst | DMAP | 0.04507 mmol, 5.6 mg, 0.1 equiv. | CN(C)C=1C=CN=CC1 | C7H10N2
product | 1-(3-(2-(3,3-difluoropyrrolidin-1-yl)-6-((4-(trifluoromethyl)pyridin-2-yl)amino)pyridin-4-yl)azetidin-1-yl)ethanone | 9.5 mg, 4.8% | FC1(CN(CC1)C1=NC(=CC(=C1)C1CN(C1)C(C)=O)NC1=NC=CC(=C1)C(F)(F)F)F | C20H20F5N5O
